US05344983
10 g of 4-isopropyl-5-oxohexanenitrile (purity 95.7%) and 115 g of liquid ammonia were pumped hourly from bottom to top at 250 bar and 80° C. through a tubular reactor (diameter 16 mm, fill level 50 cm, oil-heated twin jacket) arranged before the hydrogenation reactor and filled with 63.5 g (100 ml) of titanium dioxide (anatase) in the form of 1.5 mm pellets. 100 l (s.t.p.)/h of hydrogen were subsequently passed in, and the product discharged from the upstream imination reactor was passed through the hydrogenation reactor from bottom to top at 250 bar and 110° C. The mixture was decompressed at atmospheric pressure, the ammonia was removed by distillation, and the discharge from 72 hours was separated by fractional distillation on a 30 cm packed column (3-mm glass rings). 640 g of 4-isopropyl-1,5-hexanediamine were obtained as a colorless liquid (b.p. 80° C./1 mbar), corresponding to a yield of 90 %.

reactant | 4-isopropyl-5-oxohexanenitrile | 10 g | C(C)(C)C(CCC#N)C(C)=O | C9H15NO
reactant | ammonia | N | H3N
catalyst | titanium dioxide | 100 ml, 63.5 g | [O-2].[O-2].[Ti+4]
solvent | hydrogen | 100 l | [H][H] | H2
product | 4-isopropyl-1,5-hexanediamine | 640 g, yield of 90 % | C(C)(C)C(CCCN)C(C)N | C9H22N2
